US04689330
To a stirred mixture of 5.8 parts of N-[(1-acetyl-4-piperidinyl)methyl]-N'-phenylthiourea and 160 parts of tetrachloromethane were added 3.7 parts of bromine. The whole was stirred and refluxed for 15 minutes. After the additions of 16 parts of ethanol and 16 parts of acetonitrile, the reaction mixture was cooled. The precipitated product was filtered off, washed with acetonitrile and dried. The hydrobromide salt was dissolved in methanol and water. This solution was alkalized with ammonium hydroxide. The precipitated product was filtered off, washed with water and dried, yielding 2.7 parts of 1-acetyl-N-(2-benzothiazolyl)-4-piperidinemethanamine; mp. 138.1° C. (intermediate 29).

reactant | N-[(1-acetyl-4-piperidinyl)methyl]-N'-phenylthiourea | C(C)(=O)N1CCC(CC1)CNC(=S)NC1=CC=CC=C1 | C15H21N3OS
reactant | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
reactant | bromine | BrBr | Br2
reactant | ethanol | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-acetyl-N-(2-benzothiazolyl)-4-piperidinemethanamine | C(C)(=O)N1CCC(CC1)CNC=1SC2=C(N1)C=CC=C2 | C15H19N3OS
